US04994452
1-Benzyl-2,3,9,10,11,12-hexahydro-3-methyl-1H-quino[4,3,2-ef][1,4]benzoxazepine
To a solution of lithium aluminum hydride in tetrahydrofuran (1M, 12.2 ml) and dry tetrahydrofuran (30 ml) was added aluminum chloride (1.62 g) in portions, with stirring. After five mins, 1-benzyl-3-methyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one (4.38 g) was added and stirring was continued overnight. Ethyl acetate (200 ml) and 10% sodium hydroxide solution (200 ml) were added, and the organic layer was separated, dried over anhydrous sodium magnesium sulfate, and concentrated. Recrystallization of the residue from methanol/diethyl ether gave 2.82 g (67%) of product, mp 151.5°-153° C.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | aluminum chloride | 1.62 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-benzyl-3-methyl-1,3,9,10,11,12-hexahydro-2H-quino[4,3,2-ef][1,4]benzoxazepin-2-one | 4.38 g | C(C1=CC=CC=C1)N1C(C(OC2=C3C1=C1CCCCC1=NC3=CC=C2)C)=O | C23H22N2O2
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 1M, 12.2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-2,3,9,10,11,12-hexahydro-3-methyl-1H-quino[4,3,2-ef][1,4]benzoxazepine | 2.82 g, 67% | C(C1=CC=CC=C1)N1CC(OC2=C3C1=C1CCCCC1=NC3=CC=C2)C | C23H24N2O
